Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Inderal
 
Attending: ___.
 
Chief Complaint:
Pain at site of ICD
 
Major Surgical or Invasive Procedure:
ICD generator replacement

 
History of Present Illness:
___ yo W with PMH of CAD s/p inferior MI ___, CHF EF 35%, CAD, 
non sustained ventricular tachycardia s/p ICD implantation and 
PVD with a  
right pop occlusion who presents after developing severe ___ 
pain and burning around her ICD implant site with some radiation 
towards her left axilla and left upper inner arm 1 week prior to 
presentation (___). Pain lasted for ___ and 
resolved. Patient reports feeling occasional "electrical 
twinges" and area is still somewhat uncomfortable.  
.  
Patient underwent generator change which was complicated by 
hypotension with sys bp in ___. Patient was given 500cc NS bolus 
x 1 with improvement in pressure to sys ___. Otherwise procedure 
was uncomplicated.  
.  
On ROS, patient does report recent recurrentce of angina. States 
has anginal type symptoms when changing sheets or doing laundry. 
However not relieved with SL nitro but improved with pepcid or 
ginger ale. Also states that angina is unpredictable and does 
not always occur with activity such as vacuuming 

 
Past Medical History:
1. CAD s/p IMI with cardiac cath in ___ with 2 vessel CAD (40% 
LCx stenosis, ___ occluded RCA)
2. CHF with EF 35%, inferior akinesis and lateral and 
inferoseptal hypokinesis per TTE in ___. PVD with right popliteal occlusion per angiogram
4. h/o NSVT s/p ICD placement in ___
5. Dyslipidemia
6. h/o Adnexal mass s/p bilat SBO on ___
7. h/p R partial pneumonectomy for adenocarcinoma of the right 
lung in ___
8. s/p chole, appy 
 
Social History:
___
Family History:
There is no known cardiac history or history of sudden death or 
cancer history. 
 
Physical Exam:
VS - T 89/52 HR RR 18 100%RA  
Gen: WDWN middle aged female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 8 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: Pacer site C/D/I, minimally tender w/o erythema. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ ___ 1+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 12:08PM   GLUCOSE-72 UREA N-29* CREAT-0.7 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-26 ANION GAP-14
___ 12:08PM   WBC-10.0 RBC-3.89* HGB-12.6 HCT-37.3 MCV-96 
MCH-32.4* MCHC-33.8 RDW-12.8
___ 12:08PM   PLT COUNT-339
___ 12:08PM   ___ yo W with MMP presents for ICD generator change after 
symptoms of pacer dysfunction.  
.  
#. Rhythm: In NSR; ICD placement for NSVT plus low EF; s/p 
generator change. Monitored on telemetry overnight without 
events. Will complete 5 day course of keflex in setting of 
procedure. Pain control with ibuprofen and percocet PRN.  
.  
#. Hypotension: According to patient, BP always low 80's - 90's, 
which may be possible given low EF. Episode of hypotension 
during generator change. Given 500cc bolus with improvement in 
pressure.  
.  
#. CAD: prior MI; no current symptoms; does report recurrence of 
? angina not relieved with nitro; atypical symptoms and improved 
with ginger ale. Sounds more musculoskeletal vs. GERD given 
unpredictable occurrence. Continued ASA, toprol, lisinopril, 
statin, plavix.  
.  
#. Pump : Chronic systolic heart failure; EF of 30% with no 
evidence of fluid overload on exam. Per patient, wt is 
increased. Continued lasix 20 PO daily. Continued afterload 
reduction  
.  
#. Hyperlipidemia: continued statin in house  
.  
#. hx of lung CA; s/p excision; stable; no changes to management 
in house  
.  
#. Osteoporosis: Vit D supplement every few weeks.  
.  
#. Contact: Son, ___ ___  
.  
#. Code: Full  

 
Medications on Admission:
Aspirin 81mg Daily  
Clopidogrel 75mg daily  
Vit D 50,000 U every 2 weeks  
Furosemide 20mg Daily  
Lisinopril 5mg Daily  
Lovastatin 20mg Daily  
Toprol XL 100mg Twice Daily  

 
Discharge Medications:
1. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) for 4 days.
Disp:*12 Capsule(s)* Refills:*0*
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
ICD generator replacement

Secondary:
Chronic congestive heart failure, EF 30%
Coronary artery disease

 
Discharge Condition:
Good, vital signs stable

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid ___
You were admitted  to the hospital for generator change on your 
pacer. Your blood pressure was low and you were given some IV 
fluids with improvement. 
.
You have been started on antibiotics. You should continue to 
take this medication until it is complete.
.
Please contact your doctor or return to the emergency room if 
you develop any worrisome symptoms such as chest pain, shortness 
of breath, lightheadedness, passing out, etc.

 
Followup Instructions:
___